US06908939B2
0.67 g (2.14 mmol) of 5-(3′-methylaminobiphenyl-4-ylmethyl)thiazolidine-2,4-dione in 20 ml of dichloromethane is introduced into a 50 ml round-bottomed flask. 1 g (4.3 mmol) of 1-hexyloxy-4-isocyanatobenzene is added and the mixture is heated under reflux for 16 hours. The reaction medium is poured at room temperature over a 1 N HCl solution and extracted with ethyl acetate. The organic phase is washed with water and dried over magnesium sulphate. After evaporation of the solvents, the product obtained is purified by chromatography on silica gel (eluent: heptane/ethyl acetate=3/2). 0.78 g (68%) of 1-[4′-(2,4-dioxothiazolidin-5-ylmethyl)biphenyl-3-yl]-3-(4-hexyloxyphenyl)-1-methylurea is obtained in the form of a white powder having a melting point of 146-148° C.

reactant | 5-(3′-methylaminobiphenyl-4-ylmethyl)thiazolidine-2,4-dione | 2.14 mmol, 0.67 g | CNC=1C=C(C=CC1)C1=CC=C(C=C1)CC1C(NC(S1)=O)=O | C17H16N2O2S
reactant | 1-hexyloxy-4-isocyanatobenzene | 4.3 mmol, 1 g | C(CCCCC)OC1=CC=C(C=C1)N=C=O | C13H17NO2
reactant | HCl | 1 N | Cl | ClH
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-[4′-(2,4-dioxothiazolidin-5-ylmethyl)biphenyl-3-yl]-3-(4-hexyloxyphenyl)-1-methylurea | 0.78 g, 68% | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)N(C(=O)NC1=CC=C(C=C1)OCCCCCC)C | C30H33N3O4S
